US05688795
A mixture of cyclopropyltributyltin (0.5 g, 1.51 mmol) in 3 mL of THF was cooled to -78° C. and then n-butyllithium (0.604 mL, 2.5M in hexanes, 1.51 mmol) was added. The mixture was stirred at 0° C. for 0.5 hours. A mixture of copper(I) iodide (0.142 g, 0.75 mmol) in THF was cooled to -40° C. and the mixture containing the cyclopropyltributyltin was added. The mixture was stirred for 45 minutes and then 2-chloronicotinic acid chloride (0.265 g, 1.51 mmol) was added dropwise. The mixture was stirred at -40° C. for 1.5 hours and allowed to warm to room temperature. The mixture was quenched with water, diluted with methylene chloride, filtered and the aqueous layer was extracted with methylene chloride (2×30 mL). The combined organic layers were dried (Na2SO4) and concentrated. The residue was purified on silica gel by flash chromatography eluting with hexanes/ethyl acetate (85:15) to give 2-chloro-3-pyridyl cyclopropyl ketone (0.15 g, 0.83 mmol) as an oil.

reactant | cyclopropyltributyltin | 1.51 mmol, 0.5 g | C1(CC1)[Sn](CCCC)(CCCC)CCCC
reactant | n-butyllithium | 1.51 mmol, 2.5M, 0.604 mL | C(CCC)[Li]
reactant | 2-chloronicotinic acid chloride | 1.51 mmol, 0.265 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 0.75 mmol, 0.142 g | [Cu]I
product | 2-chloro-3-pyridyl cyclopropyl ketone | 0.83 mmol, 0.15 g | C1(CC1)C(=O)C=1C(=NC=CC1)Cl | C9H8ClNO
